US04879313
A. 8-guanidino-octanoic acid
3,5-dimethyl-pyrazole-1-carboxamidine (100 g; 0.5 Mole) and N,N-diisopropylethyl amine (DIEA) (65 g; 0.5 Mole) were suspended in dioxane (300 ml) and water (115 ml). 8-Amino-octanoic acid (48 g; 0.3 Mole) was added to the mixture with stirring. The colorless solution was then refluxed for 2 days. The product was filtered and washed with water (3×50 ml).

reactant | 3,5-dimethyl-pyrazole-1-carboxamidine | 0.5 Mole, 100 g | CC1=NN(C(=C1)C)C(=N)N | C6H10N4
reactant | N,N-diisopropylethyl amine | 0.5 Mole, 65 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 8-Amino-octanoic acid | 0.3 Mole, 48 g | NCCCCCCCC(=O)O | C8H17NO2
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
solvent | water | 115 ml | O | H2O
product | 8-guanidino-octanoic acid | N(C(=N)N)CCCCCCCC(=O)O | C9H19N3O2
